US07384950B2
a) 6-Chloro-3-methyl-1-propylpyrimidine-2,4(1H,3H)-dione
6-chloro-3-methyl uracil (10 g) and potassium carbonate (10.34 g) in DMF (70 ml) under nitrogen was treated with n-propyl iodide (25.4 g) and heated at reflux for 8 h. The reaction 30 was cooled and then poured into water (700 ml) and extracted with ethyl acetate. The combined organics were dried and evaporated in vacuo to afford the subtitle compound an orange oil, 17.52 g. δ 1HCDCl3 0.98 (3H, t), 1.74 (2H, sextet), 3.33 (3H, s), 4.02 (2H, t), 8.02 (1H, s).

reactant | 6-chloro-3-methyl uracil | 10 g | ClC1=CC(N(C(N1)=O)C)=O | C5H5ClN2O2
reactant | potassium carbonate | 10.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-propyl iodide | 25.4 g | C(CC)I | C3H7I
reactant | water | 700 ml | O | H2O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-3-methyl-1-propylpyrimidine-2,4(1H,3H)-dione | ClC1=CC(N(C(N1CCC)=O)C)=O | C8H11ClN2O2
